US07019137B2
(R)-4-(2,3-Dihydro-1,4-benzodioxin-5-yl)-α-methyl-1-piperazineacetic Acid Ethyl Ester
A solution of 2,3-dihydro-1,4-benzodioxin-5-amine (0.327 g; 2.16 mmol) in chlorobenzene (2 mL) is added to a solution of N,N-bis(2-chloroethyl)-(R)-alanine ethyl ester (trifluoromethanesulfonic acid salt; 0.850 g; 2.16 mmol) in the same solvent (2 mL). The stirred reaction mixture is heated at 130° C. for 15 hours, the volatiles are removed on a rotavap, and the semi-solid residue is partitioned between 10% sodium bicarbonate (15 mL) and ether. Organic extracts are washed with brine, dried over magnesium sulfate, and filtered. TLC (chloroform) shows formation of a new product with RF 0.15, (R)-4-(2,3-dihydro-1,4-benzodioxin-5-yl)-α-methyl-1-piperazineacetic acid ethyl ester. Upon addition of 1 N ethereal HCl, (R)-4-(2,3-dihydro-1,4-benzodioxin-5-yl)-α-methyl-1-piperazineacetic acid ethyl ester is converted into its hydrochloride salt that is collected by filtration; 0.615 g (80%), mp 168-171° C. The salt can be recrystallized from ethanol-ether, or acetone-ether. 1H NMR (300 MHz, DMSO-d6) δ 1.25 (t, J=7.1 Hz, 3H), 1.58 (d, J=7.2 Hz, 3H), 3.16 (m, 2H), 3.36 (m, 2H), 4.23 (m, 4H), 4.26-4.38 (m, 3H), 4.48 (b, 4H), 6.52 (d, J=7.9 Hz, 1H), 6.57 (d, J=8 Hz, 1H), 6.76 (t, J=8 Hz, 1H), 11.3 (b, <1H).

reactant | 2,3-dihydro-1,4-benzodioxin-5-amine | 2.16 mmol, 0.327 g | O1CCOC2=C1C=CC=C2N | C8H9NO2
reactant | N,N-bis(2-chloroethyl)-(R)-alanine ethyl ester | 2.16 mmol, 0.850 g | C(C)OC([C@H](N(CCCl)CCCl)C)=O | C9H17Cl2NO2
solvent | chlorobenzene | 2 mL | ClC1=CC=CC=C1 | C6H5Cl
product | (R)-4-(2,3-Dihydro-1,4-benzodioxin-5-yl)-α-methyl-1-piperazineacetic Acid Ethyl Ester | C(C)OC([C@H](N1CCN(CC1)C1=CC=CC=2OCCOC21)C)=O | C17H24N2O4
